* c:\users\vatsal\esim-workspace\cmos_transmission_gate\cmos_transmission_gate.cir

.include PMOS-5um.lib
.include NMOS-5um.lib
m1 in -control out in mos_p W=100u L=100u M=1
m2 out control in in mos_n W=42 L=50 M=1
v2  -control gnd pulse(5 0 0 0 0 10m 20m)
v1  in gnd pulse(0 5 0 0 0 5m 10m)
v3  control gnd pulse(0 5 0 0 0 10m 20m)
* u1  in plot_v1
* u2  -control plot_v1
* u3  control plot_v1
* u4  out plot_v1
.tran 0.1e-03 2000e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(-control)
plot v(control)
plot v(out)
.endc
.end
